US05462954
3-(2-(3-(2-Ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)-E-propenoic acid
60% Sodium hydride in oil was washed with hexane and suspended in dry DMSO (50 mL) with stirring under nitrogen. 2-(2-Hydroxyphenyl)-1,3-dioxolane (166 mg, 1 mmol) was dissolved in dry THF (10 mL) and added to the DMSO solution to give a pale yellow solution. After 20 minutes at room temperature 3-(2-ethyl-4-(4-fluorophenyl)-5-acetoxyphenoxy)propyl iodide (442 mg, 1 mmol) was added as a solution in dry THF (10 mL). After a further 2 hours at room temperature the reaction mixture was poured into pH 7.0 phosphate buffer and the mixture extracted 5 times with ether. The combined ether extracts were washed with water, dried with magnesium sulfate and evaporated to an oil which was chromatographed on a silica gel column eluting with ether/hexane (1:1). The title compound was isolated as an oil which was shown by the NMR spectrum to be contaminated with the starting phenol and a byproduct produced by loss of the acetyl group and alkylation produced with the starting iodide. These impurities could not be conveniently separated at this stage and the partially purified material was taken on to the next step.

reactant | 2-(2-Hydroxyphenyl)-1,3-dioxolane | 1 mmol, 166 mg | OC1=C(C=CC=C1)C1OCCO1 | C9H10O3
reactant | DMSO | CS(=O)C | C2H6OS
reactant | 3-(2-ethyl-4-(4-fluorophenyl)-5-acetoxyphenoxy)propyl iodide | 1 mmol, 442 mg | C(C)C1=C(OCCCI)C=C(C(=C1)C1=CC=C(C=C1)F)OC(C)=O | C19H20FIO3
reactant | phosphate | pH 7.0 | P(=O)([O-])([O-])[O-]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(2-(3-(2-Ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)-E-propenoic acid | C(C)C1=C(OCCCOC2=C(C=CC=C2)/C=C/C(=O)O)C=C(C(=C1)C1=CC=C(C=C1)F)O | C26H25FO5
